US08084623B2
To a stirred solution of 5-(1-tert-butoxycarbonyl-2-propyl-pyrrolidine-2-carbonyl)-indole-1-carboxylic acid tert-butyl ester (0.132 g, 0.289 mmol) in DCM (3 mL) at 20° C. under nitrogen was added TFA (1 mL). After 14 hours the reaction mixture was quenched with saturated aqueous NaHCO3 and extracted with DCM. The combined organic phases were concentrated in vacuo then purified by chromatography (silica, 0 to 30% MeOH in DCM) to furnish (1H-indol-5-yl)-(2-propyl-pyrrolidin-2-yl)-methanone (0.053 g, 0.207 mmol, 72%) as a beige foam, MS=257 [M+H]+.

reactant | 5-(1-tert-butoxycarbonyl-2-propyl-pyrrolidine-2-carbonyl)-indole-1-carboxylic acid tert-butyl ester | 0.289 mmol, 0.132 g | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)C(=O)C1(N(CCC1)C(=O)OC(C)(C)C)CCC | C26H36N2O5
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (1H-indol-5-yl)-(2-propyl-pyrrolidin-2-yl)-methanone | 0.207 mmol, 0.053 g, 72% | N1C=CC2=CC(=CC=C12)C(=O)C1(NCCC1)CCC | C16H20N2O
